US08609656B2
Preparation of 1-(4-bromo-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-pyrrole
In 50 mL of toluene, 3.6 g (15 mmol) of 4-bromo-3-(trifluoromethyl)aniline was dissolved, and 2.06 g (18 mmol) of 2,5-hexanedione and 54 mg (0.28 mmol) of p-toluenesulfonic acid-hydrate were added thereto and the mixture solution was refluxed with stirring for two hours. The reaction solution was partitioned between a saturated sodium bicarbonate solution and ethyl acetate and the organic layer was washed with a saturated sodium chloride solution and concentrated under reduced pressure. The obtained residue was purified by a silica gel column (n-hexane:ethyl acetate=9:1) to obtain 4.66 g (97%) of a target product as a pale yellow oil.

reactant | 4-bromo-3-(trifluoromethyl)aniline | 15 mmol, 3.6 g | BrC1=C(C=C(N)C=C1)C(F)(F)F | C7H5BrF3N
reactant | 2,5-hexanedione | 18 mmol, 2.06 g | CC(CCC(C)=O)=O | C6H10O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid-hydrate | 0.28 mmol, 54 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-(4-bromo-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-pyrrole | 4.66 g, 97% | BrC1=C(C=C(C=C1)N1C(=CC=C1C)C)C(F)(F)F | C13H11BrF3N
